US04548640
To a solution of 5.0 g (0.031 mole) of 2,4-difluoronitrobenzene and 2.8 g (0.031 mole) of 2-methyl-2-propenethiol in 25 ml of tetrahydrofuran at room temperature was added dropwise 3.1 g (0.031 mole) of triethylamine. The reaction mixture was stirred at room temperature for forty-eight hours and then at 50° C. for eight hours. The tetrahydrofuran was removed under reduced pressure, and water was mixed with the residue. This aqueous mixture was extracted with chloroform. The chloroform extract was washed with water, dried, and the chloroform evaporated under reduced pressure, leaving an oily residue. Distillation of this residue under reduced pressure yielded 6.0 g of 2-(2-methyl-2-propenylthio)-4-fluoronitrobenzene. The nmr spectrum was consistent with the proposed structure.

reactant | 2,4-difluoronitrobenzene | 0.031 mole, 5.0 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | 2-methyl-2-propenethiol | 0.031 mole, 2.8 g | CC(CS)=C | C4H8S
reactant | triethylamine | 0.031 mole, 3.1 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 2-(2-methyl-2-propenylthio)-4-fluoronitrobenzene | 6.0 g | CC(CSC1=C(C=CC(=C1)F)[N+](=O)[O-])=C | C10H10FNO2S
